US09382188B2
J) (3-(bromomethyl)phenyl)methanol
Under a nitrogen atmosphere, to a solution of methyl 3-(bromomethyl)benzoate (10.0 g) in toluene (100 mL) was added a 1.5 M solution (100 mL) of diisobutylaluminum hydride in toluene at 0° C., and the mixture was stirred at 0° C. for 1 hr. To the reaction mixture was added methanol at 0° C., and the resulting white precipitate was filtered off. The solvent in the filtrate was evaporated under reduced pressure to give a crude product of the title compound (8.83 g) as a colorless oil. This compound was used for the next step without further purification.

reactant | methyl 3-(bromomethyl)benzoate | 10.0 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | CO | CH4O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (3-(bromomethyl)phenyl)methanol | 8.83 g | BrCC=1C=C(C=CC1)CO | C8H9BrO
